US07524862B2
1.43b. 6-bromo-4-methyl-2-(4-methylpiperidin-1-yl)quinoline
0.24 mL (2.0 mmol) of 4-methylpiperidine and 0.28 mL (2.0 mmol) of triethylamine are added to a solution of 0.51 g (2.0 mmol) of 6-bromo-2-chloro-4-methylquinoline in 15 mL of 1,4-dioxane and the reaction mixture is refluxed overnight. After cooling, the precipitate is filtered off, the filtrate is evaporated down, the residue is combined with acetonitrile and MTBE, filtered to remove insoluble ingredients, and the filtrate is evaporated down again. Yield: 0.69 g (100% of theoretical); C16H19BrN2 (M=319.240); calc.: molpeak (M+H)+: 319/321 (Br); found: molpeak (M+H)+: 319/321 (Br); HPLC-MS: 4.7 min (method B).

reactant | 4-methylpiperidine | 2.0 mmol, 0.24 mL | CC1CCNCC1 | C6H13N
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromo-2-chloro-4-methylquinoline | 2.0 mmol, 0.51 g | BrC=1C=C2C(=CC(=NC2=CC1)Cl)C | C10H7BrClN
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-4-methyl-2-(4-methylpiperidin-1-yl)quinoline | BrC=1C=C2C(=CC(=NC2=CC1)N1CCC(CC1)C)C | C16H19BrN2
